US07576090B2
1-[6-(6-Chloro-pyrimidin-4-ylamino)-benzothiazol-2-yl]-3-(2-methoxy-5-methyl-phenyl)-urea
A mixture of 4,6-dichloropyrimidine (180 mg, 1.21 mmol), benzothiazole-2,6-diamine (200 mg, 1.21 mmol), sodium iodide (216 mg, 1.45 mmol), ethyl diisopropylamine (0.25 mL, 1.45 mmol) and DMF (10 mL) was heated at 85° C. for 3 h. 2-Methoxy-5-methylphenyl isocyanate (0.20 mL, 1.33 mmol) was added and heating was continued at 85° C. for 3 h. The solvent was removed and the residue treated with CH2Cl2. The precipitate was separated (0.57 g, 85%). LC/ESI-MS: m/z=441 [M+H]+; m/z=439 [M−H]−; Rt=3.64 min.

reactant | 4,6-dichloropyrimidine | 1.21 mmol, 180 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | benzothiazole-2,6-diamine | 1.21 mmol, 200 mg | S1C(=NC2=C1C=C(C=C2)N)N | C7H7N3S
reactant | sodium iodide | 1.45 mmol, 216 mg | [I-].[Na+]
reactant | ethyl diisopropylamine | 1.45 mmol, 0.25 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-Methoxy-5-methylphenyl isocyanate | 1.33 mmol, 0.20 mL | COC1=C(C=C(C=C1)C)N=C=O | C9H9NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[6-(6-Chloro-pyrimidin-4-ylamino)-benzothiazol-2-yl]-3-(2-methoxy-5-methyl-phenyl)-urea | ClC1=CC(=NC=N1)NC1=CC2=C(N=C(S2)NC(=O)NC2=C(C=CC(=C2)C)OC)C=C1 | C20H17ClN6O2S
